US07407978B2
2-(4-Acetoxyphenyl)-3-p-tolylacrylic acid (37)
To a mixture of (4-hydroxyphenyl)-acetic acid (18.3 g, 120.3 mmol) and 4-methylbenzaldehyde (12.0 g, 100 mmol) in 250 mL acetic anhydride was added potassium carbonate (11.9 g, 121.2 mmol). The reaction mixture was stirred at 80° C. for 16 h before it was cooled to room temperature. To the mixture was added 100 mL H2O, 5% HCl in water to pH 1 and 200 mL ethyl acetate. The mixture was then heated to 80° C. until all ethyl acetate was evaporated. The precipitate was filtered and washed with water and hexane. The filter cake was recrystallized out of toluene, filtered, washed with hexane and dried under vacuum to yield a pale yellow powder (20.16 g, 68.1%). 1H NMR (400 MHz, DMSO-d6) δ 12.62 (br s, 1H), 7.74 (s, 1H), 7.19 (d, J=8.8 Hz, 2H), 7.13 (d, J=8.8 Hz, 2H), 7.01 (d, J=8.0 Hz, 2H), 6.94 (d, J=8.4 Hz, 2H), 2.29 (s, 3H), 2.23 (s, 3H).

reactant | (4-hydroxyphenyl)-acetic acid | 120.3 mmol, 18.3 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | 4-methylbenzaldehyde | 100 mmol, 12.0 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | potassium carbonate | 121.2 mmol, 11.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
reactant | acetic anhydride | 250 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
solvent | H2O | 100 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-Acetoxyphenyl)-3-p-tolylacrylic acid | 20.16 g, 68.1% | C(C)(=O)OC1=CC=C(C=C1)C(C(=O)O)=CC1=CC=C(C=C1)C | C18H16O4
